US07173047B2
N-{[4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetyl}-4-fluorobenzenesulfonamide
To a solution of carbonyldiimidazole (13.2 mg, 0.081 mmol) and [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid (30 mg, 0.074 mmol) in dichloromethane (2 ml) was added 4-fluorobenzenesulphonamide (14.3 mg, 0.081 mmol) and N,N-diisopropylethylamine (10.5 mg, 0.81 mmol). The mixture was stirred at ambient temperature under an atmosphere of nitrogen overnight. The reaction mixture was diluted with dichloromethane (3 ml) and then washed with 2N hydrochloric acid (5 ml). The organic phase was dried (MgSO4) and then concentrated in vacuo to give a brown gum. The residue was purified using mass directed autopurification to give the title compound as a white solid (14.7 mg, 35.3%). MH+563.

reactant | carbonyldiimidazole | 0.081 mmol, 13.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid | 0.074 mmol, 30 mg | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC=C(C=C1)CC(=O)O)=O)OCC)C=CC=C2 | C24H23NO5
reactant | 4-fluorobenzenesulphonamide | 0.081 mmol, 14.3 mg | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | N,N-diisopropylethylamine | 0.81 mmol, 10.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-{[4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetyl}-4-fluorobenzenesulfonamide | 14.7 mg, 35.3% | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC=C(C=C1)CC(=O)NS(=O)(=O)C1=CC=C(C=C1)F)=O)OCC)C=CC=C2 | C30H27FN2O6S
